US08110689B2
3-Iodo-N-((S)-1-methyl-2-methylthioethyl)-phthalamic acid (0.38 g) and N-(3-dimethylaminopropyl)-N′-ethylcarbonyldimidazole hydrochloride (0.2 g) were stirred in methylene chloride (10 ml) at room temperature for 30 minutes. 4-(3,5-Bis-trifluoromethyl-benzyl)-2-methylaniline (0.3 g) and p-toluenesulfonic acid hydrate (0.02 g) were added thereto and stirred at room temperature for 3 hours. After the reaction, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography to obtain N1-[4-(3,5-bis-trifluoromethyl-benzyl)-2-methylphenyl]-3-iodo-N2-((S)-1-methyl-2-methylthioethyl) phthalamide (0.15 g).

reactant | 3-Iodo-N-((S)-1-methyl-2-methylthioethyl)-phthalamic acid | 0.38 g | IC1=C(C(C(=O)O)=CC=C1)C(=O)N[C@H](CSC)C | C12H14INO3S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbonyldimidazole hydrochloride | 0.2 g | Cl.CN(CCCN1CN(C(=O)N2CN(C=C2)CC)C=C1)C
reactant | 4-(3,5-Bis-trifluoromethyl-benzyl)-2-methylaniline | 0.3 g | FC(C=1C=C(CC2=CC(=C(N)C=C2)C)C=C(C1)C(F)(F)F)(F)F | C16H13F6N
reactant | p-toluenesulfonic acid hydrate | 0.02 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N1-[4-(3,5-bis-trifluoromethyl-benzyl)-2-methylphenyl]-3-iodo-N2-((S)-1-methyl-2-methylthioethyl) phthalamide | 0.15 g | FC(C=1C=C(CC2=CC(=C(C=C2)NC(C=2C(C(=O)N[C@H](CSC)C)=C(C=CC2)I)=O)C)C=C(C1)C(F)(F)F)(F)F | C28H25F6IN2O2S
